US06734179B2
To a stirred solution of 2.75 g (13.3 mmol) 2-methoxy-5-(tetrahydro-pyran-4-yl)-phenylamine in 60 ml acetone was added dropwise a solution of 2.04 ml (15.2 mmol) benzoyl isothiocyanate in 30 ml acetone and stirring continued for 30 minutes at room temperature. The mixture was then concentrated in vacuo. Flash chromatography (1/1 ethyl acetate/hexane) followed by trituration in ether afforded 3.25 g (66%) 1-benzoyl-3-[2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-thiourea as a white solid. ES-MS m/e (%): 371 (M+H+, 100).

reactant | 2-methoxy-5-(tetrahydro-pyran-4-yl)-phenylamine | 13.3 mmol, 2.75 g | COC1=C(C=C(C=C1)C1CCOCC1)N | C12H17NO2
reactant | benzoyl isothiocyanate | 15.2 mmol, 2.04 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1-benzoyl-3-[2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-thiourea | 3.25 g, 66% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)C1CCOCC1)OC | C20H22N2O3S
